US04002640
1.8 G. 1-amino-2-nitro-4-benzylsulfinylbenzene is treated in 120 ml. methanol and 30 ml. water with 1.8 g. iron powder and 0.9 g. ferrous sulfate at reflux for four hours, filtered and the filtrate concentrated under vacuum. The residue is extracted into chloroform and isolated by evaporation. The residue is recrystallized from methylene chloride-benzene giving 1,2-diamino-4-benzylsulfinylbenzene.

reactant | 1-amino-2-nitro-4-benzylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)CC1=CC=CC=C1)[N+](=O)[O-] | C13H12N2O3S
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1,2-diamino-4-benzylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)CC1=CC=CC=C1)N | C13H14N2OS
